US05015661
rac-3,4-Dihydro-2,5,7,8-tetramethyl-2-(3-quinolinylethynyl)-2H-1-benzopyran-6-ol.
This compound was obtained by reacting rac-3,4-dihydro-2-ethynyl-2,5,7,8-tetramethyl-2H-1-benzopyran-6-ol, 2.3 g (10 mmol), with 3.12 g (15 mmol) of 3-bromoquinoline as described in Example 15. The product was crystallized from methylene chloride/ethanol and was recrystallized from ethyl acetate to yield tan crystals with m.p. 199°-203°.

reactant | rac-3,4-dihydro-2-ethynyl-2,5,7,8-tetramethyl-2H-1-benzopyran-6-ol | C(#C)C1(OC2=C(CC1)C(=C(C(=C2C)C)O)C)C | C15H18O2
reactant | 3-bromoquinoline | 15 mmol, 3.12 g | BrC=1C=NC2=CC=CC=C2C1 | C9H6BrN
product | rac-3,4-Dihydro-2,5,7,8-tetramethyl-2-(3-quinolinylethynyl)-2H-1-benzopyran-6-ol | CC1(OC2=C(CC1)C(=C(C(=C2C)C)O)C)C#CC=2C=NC1=CC=CC=C1C2 | C24H23NO2
